.subckt PM_AOI221xp5_ASAP7_75t_R%A2 vss 13 5 11 3
c1 1 vss 0.00654403f $X=0.297 $Y=0.135
c2 3 vss 0.133773f $X=0.297 $Y=0.0245
c3 4 vss 0.0135096f $X=0.297 $Y=0.0962
r1 14 15 2.39019 $w=1.3e-08 $l=1.03e-08 $layer=M1 $thickness=3.6e-08 $X=0.297
+ $Y=0.1247 $X2=0.297 $Y2=0.135
r2 13 14 0.408082 $w=1.3e-08 $l=1.7e-09 $layer=M1 $thickness=3.6e-08 $X=0.295
+ $Y=0.123 $X2=0.297 $Y2=0.1247
r3 13 4 6.23783 $w=1.3e-08 $l=2.68e-08 $layer=M1 $thickness=3.6e-08 $X=0.295
+ $Y=0.123 $X2=0.297 $Y2=0.0962
r4 1 8 10.4265 $w=1.765e-08 $layer=LIG $thickness=5.2e-08 $X=0.297 $Y=0.135
+ $X2=0.297 $Y2=0.135
r5 1 15 19.3796 $a=3.24e-16 $layer=V0LIG $X=0.297 $Y=0.135 $X2=0.297 $Y2=0.135
r6 11 10 14.6259 $w=2.1e-08 $l=4.3e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.297 $Y=0.2025 $X2=0.297 $Y2=0.1595
r7 9 10 2.7211 $w=2.1e-08 $l=8e-09 $layer=Gate_1 $thickness=5.6e-08 $X=0.297
+ $Y=0.1515 $X2=0.297 $Y2=0.1595
r8 8 9 5.79936 $w=2.03333e-08 $l=1.65e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.297 $Y=0.135 $X2=0.297 $Y2=0.1515
r9 7 8 5.79936 $w=2.03333e-08 $l=1.65e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.297 $Y=0.1185 $X2=0.297 $Y2=0.135
r10 6 7 7.31297 $w=2.1e-08 $l=2.15e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.297 $Y=0.097 $X2=0.297 $Y2=0.1185
r11 5 6 14.6259 $w=2.1e-08 $l=4.3e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.297
+ $Y=0.054 $X2=0.297 $Y2=0.097
r12 5 3 10.0341 $w=2.1e-08 $l=2.95e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.297 $Y=0.054 $X2=0.297 $Y2=0.0245
.ends

.subckt PM_AOI221xp5_ASAP7_75t_R%C vss 11 5 9 4 3
c1 1 vss 0.00714444f $X=0.189 $Y=0.135
c2 3 vss 0.112686f $X=0.189 $Y=0.0245
c3 4 vss 0.00528845f $X=0.189 $Y=0.0962
r1 12 13 2.39019 $w=1.3e-08 $l=1.03e-08 $layer=M1 $thickness=3.6e-08 $X=0.189
+ $Y=0.1247 $X2=0.189 $Y2=0.135
r2 11 12 0.408082 $w=1.3e-08 $l=1.7e-09 $layer=M1 $thickness=3.6e-08 $X=0.188
+ $Y=0.123 $X2=0.189 $Y2=0.1247
r3 11 4 6.23783 $w=1.3e-08 $l=2.68e-08 $layer=M1 $thickness=3.6e-08 $X=0.188
+ $Y=0.123 $X2=0.189 $Y2=0.0962
r4 1 7 10.4265 $w=1.765e-08 $layer=LIG $thickness=5.2e-08 $X=0.189 $Y=0.135
+ $X2=0.189 $Y2=0.135
r5 1 13 19.3796 $a=3.24e-16 $layer=V0LIG $X=0.189 $Y=0.135 $X2=0.189 $Y2=0.135
r6 9 8 16.4967 $w=2.1e-08 $l=4.85e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.189
+ $Y=0.2025 $X2=0.189 $Y2=0.154
r7 7 8 6.6497 $w=2.04211e-08 $l=1.9e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.189 $Y=0.135 $X2=0.189 $Y2=0.154
r8 6 7 11.2416 $w=2.06615e-08 $l=3.25e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.189 $Y=0.1025 $X2=0.189 $Y2=0.135
r9 5 6 16.4967 $w=2.1e-08 $l=4.85e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.189
+ $Y=0.054 $X2=0.189 $Y2=0.1025
r10 5 3 10.0341 $w=2.1e-08 $l=2.95e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.189 $Y=0.054 $X2=0.189 $Y2=0.0245
.ends

.subckt PM_AOI221xp5_ASAP7_75t_R%A1 vss 11 5 9 4 3
c1 1 vss 0.00705323f $X=0.243 $Y=0.135
c2 3 vss 0.100911f $X=0.243 $Y=0.0245
c3 4 vss 0.00590874f $X=0.243 $Y=0.0797
r1 12 13 6.23783 $w=1.3e-08 $l=2.68e-08 $layer=M1 $thickness=3.6e-08 $X=0.243
+ $Y=0.1082 $X2=0.243 $Y2=0.135
r2 11 12 4.25571 $w=1.3e-08 $l=1.82e-08 $layer=M1 $thickness=3.6e-08 $X=0.24
+ $Y=0.09 $X2=0.243 $Y2=0.1082
r3 11 4 2.39019 $w=1.3e-08 $l=1.03e-08 $layer=M1 $thickness=3.6e-08 $X=0.24
+ $Y=0.09 $X2=0.243 $Y2=0.0797
r4 1 7 10.4265 $w=1.765e-08 $layer=LIG $thickness=5.2e-08 $X=0.243 $Y=0.135
+ $X2=0.243 $Y2=0.135
r5 1 13 19.3796 $a=3.24e-16 $layer=V0LIG $X=0.243 $Y=0.135 $X2=0.243 $Y2=0.135
r6 9 8 16.4967 $w=2.1e-08 $l=4.85e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.243
+ $Y=0.2025 $X2=0.243 $Y2=0.154
r7 7 8 6.6497 $w=2.04211e-08 $l=1.9e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.243 $Y=0.135 $X2=0.243 $Y2=0.154
r8 6 7 11.2416 $w=2.06615e-08 $l=3.25e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.243 $Y=0.1025 $X2=0.243 $Y2=0.135
r9 5 6 16.4967 $w=2.1e-08 $l=4.85e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.243
+ $Y=0.054 $X2=0.243 $Y2=0.1025
r10 5 3 10.0341 $w=2.1e-08 $l=2.95e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.243 $Y=0.054 $X2=0.243 $Y2=0.0245
.ends

.subckt PM_AOI221xp5_ASAP7_75t_R%Y vss 35 19 39 40 48 49 1 17 16 12 10 15 2 3 11
c1 1 vss 0.00598357f $X=0.054 $Y=0.054
c2 2 vss 0.00966426f $X=0.108 $Y=0.2025
c3 3 vss 0.00662378f $X=0.216 $Y=0.054
c4 10 vss 0.0271109f $X=0.056 $Y=0.054
c5 11 vss 0.00313211f $X=0.2015 $Y=0.054
c6 12 vss 0.00452733f $X=0.0935 $Y=0.2025
c7 13 vss 0.00264219f $X=0.027 $Y=0.036
c8 14 vss 0.00229443f $X=0.027 $Y=0.198
c9 15 vss 0.0045395f $X=0.027 $Y=0.0575
c10 16 vss 0.0174859f $X=0.0405 $Y=0.036
c11 17 vss 0.00801467f $X=0.038 $Y=0.198
r1 49 47 0.0308642 $w=8.1e-08 $l=2.5e-09 $layer=P_src_drn $thickness=1e-09
+ $X=0.1253 $Y=0.2025 $X2=0.1225 $Y2=0.2025
r2 2 47 0.179012 $w=8.1e-08 $l=1.45e-08 $layer=P_src_drn $thickness=1e-09
+ $X=0.108 $Y=0.2025 $X2=0.1225 $Y2=0.2025
r3 12 2 0.179012 $w=8.1e-08 $l=1.45e-08 $layer=P_src_drn $thickness=1e-09
+ $X=0.0935 $Y=0.2025 $X2=0.108 $Y2=0.2025
r4 48 12 0.0308642 $w=8.1e-08 $l=2.5e-09 $layer=P_src_drn $thickness=1e-09
+ $X=0.0906 $Y=0.2025 $X2=0.0935 $Y2=0.2025
r5 2 44 19.3796 $a=3.24e-16 $layer=V0LISD $X=0.108 $Y=0.2025 $X2=0.108 $Y2=0.198
r6 43 44 3.14806 $w=1.3e-08 $l=1.35e-08 $layer=M1 $thickness=3.6e-08 $X=0.0945
+ $Y=0.198 $X2=0.108 $Y2=0.198
r7 42 43 3.14806 $w=1.3e-08 $l=1.35e-08 $layer=M1 $thickness=3.6e-08 $X=0.081
+ $Y=0.198 $X2=0.0945 $Y2=0.198
r8 41 42 5.82974 $w=1.3e-08 $l=2.5e-08 $layer=M1 $thickness=3.6e-08 $X=0.056
+ $Y=0.198 $X2=0.081 $Y2=0.198
r9 17 41 4.19742 $w=1.3e-08 $l=1.8e-08 $layer=M1 $thickness=3.6e-08 $X=0.038
+ $Y=0.198 $X2=0.056 $Y2=0.198
r10 14 36 2.37341 $w=1.8113e-08 $l=1.73e-08 $layer=M1 $thickness=3.6e-08
+ $X=0.027 $Y=0.198 $X2=0.027 $Y2=0.1807
r11 14 17 0.915974 $w=1.70909e-08 $l=1.1e-08 $layer=M1 $thickness=3.6e-08
+ $X=0.027 $Y=0.198 $X2=0.038 $Y2=0.198
r12 40 38 0.0462963 $w=5.4e-08 $l=2.5e-09 $layer=N_src_drn $thickness=1e-09
+ $X=0.2333 $Y=0.054 $X2=0.2305 $Y2=0.054
r13 3 38 0.268519 $w=5.4e-08 $l=1.45e-08 $layer=N_src_drn $thickness=1e-09
+ $X=0.216 $Y=0.054 $X2=0.2305 $Y2=0.054
r14 11 3 0.268519 $w=5.4e-08 $l=1.45e-08 $layer=N_src_drn $thickness=1e-09
+ $X=0.2015 $Y=0.054 $X2=0.216 $Y2=0.054
r15 39 11 0.0462963 $w=5.4e-08 $l=2.5e-09 $layer=N_src_drn $thickness=1e-09
+ $X=0.1986 $Y=0.054 $X2=0.2015 $Y2=0.054
r16 35 36 2.04041 $w=1.3e-08 $l=8.7e-09 $layer=M1 $thickness=3.6e-08 $X=0.025
+ $Y=0.172 $X2=0.027 $Y2=0.1807
r17 35 34 0.991056 $w=1.3e-08 $l=4.3e-09 $layer=M1 $thickness=3.6e-08 $X=0.025
+ $Y=0.172 $X2=0.027 $Y2=0.1677
r18 33 34 11.8344 $w=1.3e-08 $l=5.07e-08 $layer=M1 $thickness=3.6e-08 $X=0.027
+ $Y=0.117 $X2=0.027 $Y2=0.1677
r19 15 33 13.8748 $w=1.3e-08 $l=5.95e-08 $layer=M1 $thickness=3.6e-08 $X=0.027
+ $Y=0.0575 $X2=0.027 $Y2=0.117
r20 3 31 19.3796 $a=3.24e-16 $layer=V0LISD $X=0.216 $Y=0.054 $X2=0.216 $Y2=0.036
r21 13 16 1.49895 $w=1.63333e-08 $l=1.35e-08 $layer=M1 $thickness=3.6e-08
+ $X=0.027 $Y=0.036 $X2=0.0405 $Y2=0.036
r22 13 15 3.36447 $w=1.71023e-08 $l=2.15e-08 $layer=M1 $thickness=3.6e-08
+ $X=0.027 $Y=0.036 $X2=0.027 $Y2=0.0575
r23 30 31 2.79828 $w=1.3e-08 $l=1.2e-08 $layer=M1 $thickness=3.6e-08 $X=0.204
+ $Y=0.036 $X2=0.216 $Y2=0.036
r24 29 30 1.04935 $w=1.3e-08 $l=4.5e-09 $layer=M1 $thickness=3.6e-08 $X=0.1995
+ $Y=0.036 $X2=0.204 $Y2=0.036
r25 28 29 2.44849 $w=1.3e-08 $l=1.05e-08 $layer=M1 $thickness=3.6e-08 $X=0.189
+ $Y=0.036 $X2=0.1995 $Y2=0.036
r26 27 28 2.56509 $w=1.3e-08 $l=1.1e-08 $layer=M1 $thickness=3.6e-08 $X=0.178
+ $Y=0.036 $X2=0.189 $Y2=0.036
r27 26 27 4.19742 $w=1.3e-08 $l=1.8e-08 $layer=M1 $thickness=3.6e-08 $X=0.16
+ $Y=0.036 $X2=0.178 $Y2=0.036
r28 25 26 5.82974 $w=1.3e-08 $l=2.5e-08 $layer=M1 $thickness=3.6e-08 $X=0.135
+ $Y=0.036 $X2=0.16 $Y2=0.036
r29 24 25 2.44849 $w=1.3e-08 $l=1.05e-08 $layer=M1 $thickness=3.6e-08 $X=0.1245
+ $Y=0.036 $X2=0.135 $Y2=0.036
r30 23 24 4.19742 $w=1.3e-08 $l=1.8e-08 $layer=M1 $thickness=3.6e-08 $X=0.1065
+ $Y=0.036 $X2=0.1245 $Y2=0.036
r31 22 23 5.94634 $w=1.3e-08 $l=2.55e-08 $layer=M1 $thickness=3.6e-08 $X=0.081
+ $Y=0.036 $X2=0.1065 $Y2=0.036
r32 21 22 3.14806 $w=1.3e-08 $l=1.35e-08 $layer=M1 $thickness=3.6e-08 $X=0.0675
+ $Y=0.036 $X2=0.081 $Y2=0.036
r33 20 21 3.14806 $w=1.3e-08 $l=1.35e-08 $layer=M1 $thickness=3.6e-08 $X=0.054
+ $Y=0.036 $X2=0.0675 $Y2=0.036
r34 16 20 3.14806 $w=1.3e-08 $l=1.35e-08 $layer=M1 $thickness=3.6e-08 $X=0.0405
+ $Y=0.036 $X2=0.054 $Y2=0.036
r35 1 20 19.3796 $a=3.24e-16 $layer=V0LISD $X=0.054 $Y=0.054 $X2=0.054 $Y2=0.036
r36 19 18 0.0462963 $w=5.4e-08 $l=2.5e-09 $layer=N_src_drn $thickness=1e-09
+ $X=0.0713 $Y=0.054 $X2=0.0685 $Y2=0.054
r37 10 18 0.231482 $w=5.4e-08 $l=1.25e-08 $layer=N_src_drn $thickness=1e-09
+ $X=0.056 $Y=0.054 $X2=0.0685 $Y2=0.054
r38 1 10 1e-05 $l=2e-09 $X=0.054 $Y=0.054 $X2=0.056 $Y2=0.054
.ends

.subckt PM_AOI221xp5_ASAP7_75t_R%B2 vss 11 5 9 4 3 1
c1 1 vss 0.00642501f $X=0.135 $Y=0.135
c2 3 vss 0.0904817f $X=0.135 $Y=0.0245
c3 4 vss 0.00453366f $X=0.135 $Y=0.0892
r1 12 13 4.02252 $w=1.3e-08 $l=1.73e-08 $layer=M1 $thickness=3.6e-08 $X=0.135
+ $Y=0.1177 $X2=0.135 $Y2=0.135
r2 11 12 2.04041 $w=1.3e-08 $l=8.7e-09 $layer=M1 $thickness=3.6e-08 $X=0.134
+ $Y=0.109 $X2=0.135 $Y2=0.1177
r3 11 4 4.6055 $w=1.3e-08 $l=1.98e-08 $layer=M1 $thickness=3.6e-08 $X=0.134
+ $Y=0.109 $X2=0.135 $Y2=0.0892
r4 1 7 10.4265 $w=1.765e-08 $layer=LIG $thickness=5.2e-08 $X=0.135 $Y=0.135
+ $X2=0.135 $Y2=0.135
r5 1 13 19.3796 $a=3.24e-16 $layer=V0LIG $X=0.135 $Y=0.135 $X2=0.135 $Y2=0.135
r6 9 8 16.4967 $w=2.1e-08 $l=4.85e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.135
+ $Y=0.2025 $X2=0.135 $Y2=0.154
r7 7 8 6.6497 $w=2.04211e-08 $l=1.9e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.135 $Y=0.135 $X2=0.135 $Y2=0.154
r8 6 7 11.2416 $w=2.06615e-08 $l=3.25e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.135 $Y=0.1025 $X2=0.135 $Y2=0.135
r9 5 6 16.4967 $w=2.1e-08 $l=4.85e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.135
+ $Y=0.054 $X2=0.135 $Y2=0.1025
r10 5 3 10.0341 $w=2.1e-08 $l=2.95e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.135 $Y=0.054 $X2=0.135 $Y2=0.0245
.ends

.subckt PM_AOI221xp5_ASAP7_75t_R%B1 vss 15 5 11 4 3 1
c1 1 vss 0.00345066f $X=0.081 $Y=0.135
c2 3 vss 0.0705497f $X=0.081 $Y=0.0245
c3 4 vss 0.00620557f $X=0.081 $Y=0.098
r1 15 14 0.524677 $w=1.3e-08 $l=2.3e-09 $layer=M1 $thickness=3.6e-08 $X=0.084
+ $Y=0.148 $X2=0.081 $Y2=0.1457
r2 13 14 2.50679 $w=1.3e-08 $l=1.07e-08 $layer=M1 $thickness=3.6e-08 $X=0.081
+ $Y=0.135 $X2=0.081 $Y2=0.1457
r3 4 13 8.62802 $w=1.3e-08 $l=3.7e-08 $layer=M1 $thickness=3.6e-08 $X=0.081
+ $Y=0.098 $X2=0.081 $Y2=0.135
r4 1 8 10.4265 $w=1.765e-08 $layer=LIG $thickness=5.2e-08 $X=0.081 $Y=0.135
+ $X2=0.081 $Y2=0.135
r5 1 13 19.3796 $a=3.24e-16 $layer=V0LIG $X=0.081 $Y=0.135 $X2=0.081 $Y2=0.135
r6 11 10 14.6259 $w=2.1e-08 $l=4.3e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.081 $Y=0.2025 $X2=0.081 $Y2=0.1595
r7 9 10 2.7211 $w=2.1e-08 $l=8e-09 $layer=Gate_1 $thickness=5.6e-08 $X=0.081
+ $Y=0.1515 $X2=0.081 $Y2=0.1595
r8 8 9 5.79936 $w=2.03333e-08 $l=1.65e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.081 $Y=0.135 $X2=0.081 $Y2=0.1515
r9 7 8 5.79936 $w=2.03333e-08 $l=1.65e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.081 $Y=0.1185 $X2=0.081 $Y2=0.135
r10 6 7 7.31297 $w=2.1e-08 $l=2.15e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.081 $Y=0.097 $X2=0.081 $Y2=0.1185
r11 5 6 14.6259 $w=2.1e-08 $l=4.3e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.081
+ $Y=0.054 $X2=0.081 $Y2=0.097
r12 5 3 10.0341 $w=2.1e-08 $l=2.95e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.081 $Y=0.054 $X2=0.081 $Y2=0.0245
.ends


* End of included file AOI221xp5_ASAP7_75t_R.pex.sp.pex



*
.subckt AOI221xp5_ASAP7_75t_CUSTOM_4_25_0_7 VSS VDD B1 B2 C A1 A2 Y
*
* VSS VSS
* VDD VDD
* B1 B1
* B2 B2
* C C
* A1 A1
* A2 A2
* Y Y
*
*

M0 noxref_11 N_M0_g N_M0_s VSS nmos_rvt L=2e-08 W=5.4e-08 nfin=2 $X=0.071
+ $Y=0.027
M1 VSS N_M1_g noxref_11 VSS nmos_rvt L=2e-08 W=5.4e-08 nfin=2 $X=0.125 $Y=0.027
M2 N_M2_d N_M2_g VSS VSS nmos_rvt L=2e-08 W=5.4e-08 nfin=2 $X=0.179 $Y=0.027
M3 noxref_12 N_M3_g N_M3_s VSS nmos_rvt L=2e-08 W=5.4e-08 nfin=2 $X=0.233
+ $Y=0.027
M4 VSS N_M4_g noxref_12 VSS nmos_rvt L=2e-08 W=5.4e-08 nfin=2 $X=0.287 $Y=0.027
M5 N_M5_d N_M5_g noxref_9 VDD pmos_rvt L=2e-08 W=8.1e-08 nfin=3 $X=0.071
+ $Y=0.162
M6 noxref_9 N_M6_g N_M6_s VDD pmos_rvt L=2e-08 W=8.1e-08 nfin=3 $X=0.125
+ $Y=0.162
M7 noxref_10 N_M7_g noxref_9 VDD pmos_rvt L=2e-08 W=8.1e-08 nfin=3 $X=0.179
+ $Y=0.162
M8 VDD N_M8_g noxref_10 VDD pmos_rvt L=2e-08 W=8.1e-08 nfin=3 $X=0.233 $Y=0.162
M9 noxref_10 N_M9_g VDD VDD pmos_rvt L=2e-08 W=8.1e-08 nfin=3 $X=0.287 $Y=0.162


* .include "AOI221xp5_ASAP7_75t_R.pex.sp.pxi"

* Start of included file AOI221xp5_ASAP7_75t_R.pex.sp.pxi
x_PM_AOI221xp5_ASAP7_75t_R%A2 vss A2 N_M4_g N_M9_g N_A2_3
+ PM_AOI221xp5_ASAP7_75t_R%A2
cc_1 N_A2_3 N_A1_4 0.00391828f $X=0.297 $Y=0.0245
cc_2 N_A2_3 N_A1_3 0.00878452f $X=0.297 $Y=0.0245
x_PM_AOI221xp5_ASAP7_75t_R%C vss C N_M2_g N_M7_g N_C_4 N_C_3
+ PM_AOI221xp5_ASAP7_75t_R%C
cc_3 N_C_4 N_B2_4 0.00331926f $X=0.189 $Y=0.0962
cc_4 N_C_3 N_B2_3 0.00715806f $X=0.189 $Y=0.0245
x_PM_AOI221xp5_ASAP7_75t_R%A1 vss A1 N_M3_g N_M8_g N_A1_4 N_A1_3
+ PM_AOI221xp5_ASAP7_75t_R%A1
cc_5 N_A1_4 N_C_4 0.003284f $X=0.243 $Y=0.0797
cc_6 N_A1_3 N_C_3 0.00715808f $X=0.243 $Y=0.0245
x_PM_AOI221xp5_ASAP7_75t_R%Y vss Y N_M0_s N_M2_d N_M3_s N_M5_d N_M6_s N_Y_1
+ N_Y_17 N_Y_16 N_Y_12 N_Y_10 N_Y_15 N_Y_2 N_Y_3 N_Y_11
+ PM_AOI221xp5_ASAP7_75t_R%Y
cc_7 N_Y_1 N_B1_3 0.000891949f $X=0.054 $Y=0.054
cc_8 N_Y_17 N_B1_4 0.000970357f $X=0.038 $Y=0.198
cc_9 N_Y_16 N_B1_4 0.00106819f $X=0.0405 $Y=0.036
cc_10 N_Y_12 N_B1_1 0.00123479f $X=0.0935 $Y=0.2025
cc_11 N_Y_10 N_B1_3 0.0106282f $X=0.056 $Y=0.054
cc_12 N_Y_15 N_B1_4 0.00643821f $X=0.027 $Y=0.0575
cc_13 N_Y_12 N_B1_3 0.0508363f $X=0.0935 $Y=0.2025
cc_14 N_Y_12 N_B2_1 0.000828611f $X=0.0935 $Y=0.2025
cc_15 N_Y_16 N_B2_4 0.00122979f $X=0.0405 $Y=0.036
cc_16 N_Y_2 N_B2_4 0.00211564f $X=0.108 $Y=0.2025
cc_17 N_Y_12 N_B2_3 0.0368647f $X=0.0935 $Y=0.2025
cc_18 N_Y_3 N_C_4 0.00160845f $X=0.216 $Y=0.054
cc_19 N_Y_11 N_C_3 0.0267639f $X=0.2015 $Y=0.054
cc_20 N_Y_3 N_A1_4 0.00101549f $X=0.216 $Y=0.054
cc_21 N_Y_11 N_A1_3 0.0270011f $X=0.2015 $Y=0.054
x_PM_AOI221xp5_ASAP7_75t_R%B2 vss B2 N_M1_g N_M6_g N_B2_4 N_B2_3 N_B2_1
+ PM_AOI221xp5_ASAP7_75t_R%B2
cc_22 N_B2_4 N_B1_4 0.00334174f $X=0.135 $Y=0.0892
cc_23 N_B2_3 N_B1_3 0.00857566f $X=0.135 $Y=0.0245
x_PM_AOI221xp5_ASAP7_75t_R%B1 vss B1 N_M0_g N_M5_g N_B1_4 N_B1_3 N_B1_1
+ PM_AOI221xp5_ASAP7_75t_R%B1


* End of included file AOI221xp5_ASAP7_75t_R.pex.sp.pxi
.ends
